US07790709B2
Preparation of (E)-N-(2-Ethoxy-3-methoxy-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting (2-ethoxy-3-methoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (429 mg, 88%) was prepared as an off-white solid and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 10.6 (s, 1H), 8.34 (d, J=13.2 Hz, 1H), 8.08-8.01 (m, 1H), 7.50 (dd, J=9.2, 2.0 Hz, 1H), 7.25 (dd, J=9.3, 5.5 Hz, 1H), 7.06-6.94 (m, 2H), 6.67 (dd, J=11.4, 4.7 Hz, 1H), 4.91 (br s, 1H), 4.78-4.64 (m, 2H), 4.02-3.95 (m, 2H), 3.79 (s, 3H), 3.09-2.86 (m, 5H), 2.55-2.49 (m, 2H), 1.30-1.26 (m, 3H); MS (ESI) m/e 396 (M+H)+.

reactant | (E)-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylic acid hydrochloride | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (2-ethoxy-3-methoxy-benzyl)methylamine | C(C)OC1=C(CCN)C=CC=C1OC | C11H17NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-N-(2-Ethoxy-3-methoxy-benzyl)-N-methyl-3-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)acrylamide hydrochloride | 429 mg, 88% | Cl.C(C)OC1=C(CN(C(\C=C\C=2C=NC=3NC(CCC3C2)=O)=O)C)C=CC=C1OC | InChI=1S/C22H25N3O4.ClH/c1-4-29-21-17(6-5-7-18(21)28-3)14-25(2)20(27)11-8-15-12-16-9-10-19(26)24-22(16)23-13-15;/h5-8,11-13H,4,9-10,14H2,1-3H3,(H,23,24,26);1H/b11-8+;
